US08877782B2
[6-(5-Methyl-3-pyrimidin-4-yl-isoxazol-4-ylmethoxy)-pyridin-3-yl]-thiomorpholin-4-yl-methanone
As described for example 313b, 6-(5-methyl-3-pyrimidin-4-yl-isoxazol-4-ylmethoxy)-nicotinic acid (53 mg, 0.17 mmol) was converted, using thiomorpholine instead of isopropylamine, to the title compound (47 mg, 70%) which was obtained as a colourless gum. MS: m/e=398.1 [M+H]+.

reactant | 6-(5-methyl-3-pyrimidin-4-yl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.17 mmol, 53 mg | CC1=C(C(=NO1)C1=NC=NC=C1)COC1=NC=C(C(=O)O)C=C1 | C15H12N4O4
reactant | thiomorpholine | N1CCSCC1 | C4H9NS
product | [6-(5-Methyl-3-pyrimidin-4-yl-isoxazol-4-ylmethoxy)-pyridin-3-yl]-thiomorpholin-4-yl-methanone | 47 mg, 70% | CC1=C(C(=NO1)C1=NC=NC=C1)COC1=CC=C(C=N1)C(=O)N1CCSCC1 | C19H19N5O3S
